US07638514B2
Preparation of 3,3-dichloro-N-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-trifluoromethyl-phenyl)-acrylamide
74 mg of 3,3-dichloro-2-(4-trifluoromethyl-phenyl)-acrylic acid, 67 mg of bis(2-oxo-3-oxazolidinyl)-phosphinic acid chloride, 53 mg of triethylamine and 100 mg of 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propylamine are stirred in 2 ml of dichloromethane for 48 hours at 40° C. The reaction mixture is diluted with 16 ml of ethyl acetate and washed twice with aqueous potassium carbonate solution. After concentration of the organic phase and purification over silica gel, the title compound is obtained.

reactant | 3,3-dichloro-2-(4-trifluoromethyl-phenyl)-acrylic acid | 74 mg | ClC(=C(C(=O)O)C1=CC=C(C=C1)C(F)(F)F)Cl | C10H5Cl2F3O2
reactant | bis(2-oxo-3-oxazolidinyl)-phosphinic acid chloride | 67 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 53 mg | C(C)N(CC)CC | C6H15N
reactant | 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propylamine | 100 mg | ClC1=C(OCCCN)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H13Cl4NO2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
product | 3,3-dichloro-N-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propyl}-2-(4-trifluoromethyl-phenyl)-acrylamide | ClC(=C(C(=O)NCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl)C1=CC=C(C=C1)C(F)(F)F)Cl | C22H16Cl6F3NO3
